US05041640
A 2-L flask is charged with 4.9 g (200 g-atom) of magnesium turnings, 75 mL of methanol and a crystal of iodine. The mixture is heated to reflux until all the magnesium has reacted leaving a grey slurry of magnesium methoxide. After cooling, 35.2 g (400 mmol) of isobutyric acid is added followed by 250 mL of toluene. A condenser is attached set for downward distillation and the methanol and some toluene are distilled until 250 mL of distillate is collected and the distillation temperature reaches ~110° C. The mixture is cooled, 400 mL of anhydrous tetrahydrofuran is added along with 41 g (400 mmol) of diisopropylamine ad the resulting homogeneous solution is cooled in an ice bath. Finally, 240 mL of a standard solution of n-butyllithium in heptane (1.67 mmol/mL; 400 mmol) is added by injection at a temperature <10° C. The ice bath is retained for 10 minutes and then the mixture is warmed to 30°-35 ° C. for 30 minutes to complete the metalation. The ice bath is replaced and 54.8 g (400 mmol)) of 1-bromobutane is added over 15 minutes at 0° C. No exothermic reaction is observed. The ice bath is retained for 30 minutes and then the mixture is heated to 30°-35° C. for 18 hours overnight. At the conclusion of the reaction period, 150 mL of 6N hydrochloric acid solution (0.90 mmol)) is added at a temperature <10° C. followed by 280 mL of water. The aqueous layer is separated extracted with 200 mL of diethyl ether and the combined organic layers ar washed with 150 mL of 2N hydrochloric acid solution, 200 mL of saturated sodium chloride, dried (magnesium sulfate) and evaporated. This affords 64 g of product. Distillation through a 6" vacuum jacketed vigreux column affords 42.7 g of 2,2-dimethylhexanoic acid; bpD 103°-105°/5 mm; n25 1.4245.

reactant | isobutyric acid | 400 mmol, 35.2 g | C(C(C)C)(=O)O | C4H8O2
reactant | diisopropylamine | 400 mmol, 41 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | heptane | 400 mmol, 1.67 mmol/mL | CCCCCCC | C7H16
reactant | 1-bromobutane | BrCCCC | C4H9Br
catalyst | hydrochloric acid | 0.90 mmol, 6N, 150 mL | Cl | ClH
solvent | water | 280 mL | O | H2O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethylhexanoic acid | 42.7 g | CC(C(=O)O)(CCCC)C | C8H16O2
